US08729102B2
B) 2-[(1S)-2-{[4-fluoro-5-(hydroxymethyl)isoxazol-3-yl]oxy}-1-methylethyl]-1H-isoindole-1,3(2H)-dione
A mixture of 2-{(1S)-2-[(4-fluoro-5-methylisoxazol-3-yl)oxy]-1-methylethyl}-1H-isoindole-1,3(2H)-dione (383 mg), N-bromosuccinimide (269 mg), 2,2′-azobis(2-methylpropionitrile) (20.7 mg) and (trifluoromethyl)benzene (5 mL) was stirred at 100° C. overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate). The obtained residue was mixed with 1-methylpyrrolidin-2-one (5 mL) and water (10 mL), and the mixture was stirred at 105° C. overnight. The reaction mixture was extracted with ethyl acetate, and the obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a colorless oil (118 mg).

reactant | 2-{(1S)-2-[(4-fluoro-5-methylisoxazol-3-yl)oxy]-1-methylethyl}-1H-isoindole-1,3(2H)-dione | 383 mg | FC=1C(=NOC1C)OC[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C15H13FN2O4
reactant | N-bromosuccinimide | 269 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 20.7 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | (trifluoromethyl)benzene | 5 mL | FC(F)(F)C1=CC=CC=C1 | C7H5F3
solvent | Water | O | H2O
product | 2-[(1S)-2-{[4-fluoro-5-(hydroxymethyl)isoxazol-3-yl]oxy}-1-methylethyl]-1H-isoindole-1,3(2H)-dione | 118 mg | FC=1C(=NOC1CO)OC[C@H](C)N1C(C2=CC=CC=C2C1=O)=O | C15H13FN2O5
